US07442839B2
ii) 6-Bromohexyl 4-(3-iodophenyl)butyl ether
A solution of n-butyl lithium in hexane (1.6 M; 50 ml) was added to a stirred solution of 6-bromophenyl 4-(3-bromophenyl)butyl ether (21 g) in dry THF (150 ml) at −85° C. under nitrogen. After 15 min a solution of iodine (19.8 g) in THF (100 ml) was added dropwise over 20 min. The solution was then allowed to warm up to 0° C. and aqueous sodium bisulphite was added. The mixture was poured into water and extracted into ether. The combined extracts were dried (Na2SO4) and evaporated. The residue was purified by flash silica gel column chromatography (1 kg) eluting with cyclohexane-ether (9:1). The appropriate fractions were evaporated to give the title compound (17 g). LCMS RT=4.41 min.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 6-bromophenyl 4-(3-bromophenyl)butyl ether | 21 g | BrC=1C=C(C=CC1)CCCCOC1=CC=CC=C1Br | C16H16Br2O
reactant | iodine | 19.8 g | II | I2
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
solvent | hexane | 1.6 M, 50 ml | CCCCCC | C6H14
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-Bromohexyl 4-(3-iodophenyl)butyl ether | 17 g | IC=1C=C(C=CC1)CCCCOCCCCCCBr | C16H24BrIO
